US07446118B2
A solution of lithium aluminum hydride (1.0 M in THF, 5.9 mL) was added dropwise to a solution of the above obtained mixture 10/1: 3-(1-benzenesulfonyl-1H-indol-5-yl)-3-phenyl-propionic acid methyl ester and 3-(1-benzenesulfonyl-1H-indol-5-yl)-acrylic acid methyl ester CCLXVI (1.654 g, 3.935 mmol) in tetrahydrofuran (30 mL) at 0° C. After stirring for 1 hour the reaction was quenched by slow addition, at 0° C., of Rochelle salt and water. The resulting mixture was diluted with ethyl acetate and stirred at room temperature overnight. The organic layer was separated, washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography to afford 1.06 g (69% yield) of 2-(1-benzenesulfonyl-1H-indol-5-yl)-2-phenyl-ethanol CCLXVII.

reactant | lithium aluminum hydride | 1.0 M, 5.9 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(1-benzenesulfonyl-1H-indol-5-yl)-3-phenyl-propionic acid methyl ester | COC(CC(C1=CC=CC=C1)C=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1)=O | C24H21NO4S
reactant | 3-(1-benzenesulfonyl-1H-indol-5-yl)-acrylic acid methyl ester | COC(C=CC=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1)=O | C18H15NO4S
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-(1-benzenesulfonyl-1H-indol-5-yl)-2-phenyl-ethanol | 1.06 g, 69% yield | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)C(CO)C1=CC=CC=C1 | C22H19NO3S
